US07838498B2
Preparation of (2S,3R,4S,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (Intermediate H)
To a solution of 1-(allyloxymethyl)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene in dry THF:toluene (1:2, 2.4 mL) was added n-BuLi (0.3 mL, 2.5 M in hexane) dropwise under argon. After it was stirred for 1 h, a cooled solution (−70° C.) of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one in dry toluene (1.8 mL) was added dropwise to the reaction mixture. After being stirred for 3 h, the reaction was quenched by addition of ice water and extracted with EtOAc. The combined organic layers were washed 2× with water, 2× with brine, and then dried over Na2SO4. Concentration gave a yellow oil, which was dissolved in 20 mL of methanol, and methanesulfonic acid in 5 mL of methanol was added. The reaction mixture was stirred over 50 h under argon prior to being quenched by addition of satd NaHCO3 to pH 7.5. Concentration gave a residue, which was purified by preparative TLC to yield 14 mg of title compound as a white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.48 (s, 1H), 7.36 (s, 1H), 7.03 (s, 4H), 5.93-5.87 (m, 1H), 5.24 (dd, J=17.2 Hz, 1.6 Hz, 1H), 5.11 (dd, J=1.6 Hz, 10.4 Hz, 1H), 4.70 (m, 3H), 4.06-3.89 (m, 4H), 3.82 (dd, J=2.4 Hz, 12.4 Hz, 1H), 3.71-3.62 (m, 2H), 3.50-3.46 (m, 1H), 3.26-3.22 (m, 1H), 3.00 (s, 3H), 2.78-2.74 (m, 1H), 1.12 (d, J=7.2 Hz, 6H); LC-MS (m/z) 493 [(M+1)+].

reactant | 1-(allyloxymethyl)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)Br | C19H20BrClO
reactant | n-BuLi | 2.5 M, 0.3 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | THF toluene | 2.4 mL | C1CCOC1.C1(=CC=CC=C1)C
solvent | toluene | 1.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | (2S,3R,4S,5S,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 14 mg | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@]1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC | C26H33ClO7
